US04921996
N-(6-isocyanato-caproyl)-carbamic acid-β-methoxyethyl ester
6.65 g (0.05 mol) of carbamic acid-β-methoxyethyl ester and 0.15 g of zinc chloride were heated to 50° C. 8.8 g (0.05 mol) of 6-isocyanato-caproyl chloride were added dropwise to the resulting melt. Nitrogen was passed through the mixture while it was heated to 60° C. for 3 hours and then to 100° C. for 26 hours. The reaction was then terminated (IR control). The mixture was cooled, taken up in 100 ml of toluene and decanted to remove insoluble constituents; the toluene was removed under vacuum. 11 g of a colorless oil was obtained, which solidified to a waxy solid. Yield: 11 g=85%

reactant | carbamic acid-β-methoxyethyl ester | 0.05 mol, 6.65 g | COCCOC(N)=O | C4H9NO3
reactant | 6-isocyanato-caproyl chloride | 0.05 mol, 8.8 g | N(=C=O)CCCCCC(=O)Cl | C7H10ClNO2
catalyst | zinc chloride | 0.15 g | [Cl-].[Zn+2].[Cl-]
product | N-(6-isocyanato-caproyl)-carbamic acid-β-methoxyethyl ester | 11 g | COCCOC(NC(CCCCCN=C=O)=O)=O | C11H18N2O5
